US06008213
a) 2-Benzy-4-bromo-N-(formyl)aniline
Using the general procedure of Coll. Czech. Chem. Commun. 1965, 30, 1163-1172, 2-benzyl-4-bromo-aniline, prepared as in Khim. Geterotsikl. Soedin. 1983, 3, 411-414, is heated with ethyl formate to afford the title compound.

reactant | 2-benzyl-4-bromo-aniline | C(C1=CC=CC=C1)C1=C(N)C=CC(=C1)Br | C13H12BrN
reactant | ethyl formate | C(=O)OCC | C3H6O2
product | 2-Benzy-4-bromo-N-(formyl)aniline | C(C1=CC=CC=C1)C1=C(NC=O)C=CC(=C1)Br | C14H12BrNO
